US06600052B1
The methyl 3-[3-fluoro-4-(methylsulfinyl)phenyl]-4-phenyl-2-thiophenecarboxylate (4.13 g, 11.04 mmol) was dissolved in acetic anhydride (45.0 mL). Powdered sodium acetate (4.0 g, 48.7 mmol) was added and the solution was refluxed for 8 hours. The solution was poured into a 500 mL round bottom flask and solvent removed at reduced pressure. The residue was taken up in ethyl acetate (200 ml) and dichloromethane (20 mL). The solution was extracted with saturated sodium bicarbonate (3×100 mL) followed by saturated ammonium chloride (2×100 mL). The solvent was removed at reduce pressure and residue taken up in ether, dried over sodium sulfate and solvent removed at reduced pressure. Methyl 3-[4-[[(acetyloxy)methyl]thio]-3-fluorophenyl]-4-phenyl-2-thiophenecarboxylate (2.9 g, 6.90 mmol) was isolated by crystallization from diethyl ether and hexanes as white crystals. (62% yield). Mp 102.9-103.7° C. 1H NMR (CDCl3/300 MHz) 7.53 (s, 1H), 7.43 (t, 1H, J=7.8 Hz), 7.22-7.28 (m, 3H), 7.04-7.08 (m, 2H), 6.92-6.98 (m, 2H), 5.42 (s, 2H), 3.81 (s, 3H), 2.11 (s, 3H). ESHRMS m/z 434.0898 (calcd for M+NH4+, 434.0896)

reactant | methyl 3-[3-fluoro-4-(methylsulfinyl)phenyl]-4-phenyl-2-thiophenecarboxylate | 11.04 mmol, 4.13 g | FC=1C=C(C=CC1S(=O)C)C1=C(SC=C1C1=CC=CC=C1)C(=O)OC | C19H15FO3S2
reactant | sodium acetate | 48.7 mmol, 4.0 g | C(C)(=O)[O-].[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetic anhydride | 45.0 mL | C(C)(=O)OC(C)=O | C4H6O3
product | Methyl 3-[4-[[(acetyloxy)methyl]thio]-3-fluorophenyl]-4-phenyl-2-thiophenecarboxylate | 6.90 mmol, 2.9 g, 62% yield | C(C)(=O)OCSC1=C(C=C(C=C1)C1=C(SC=C1C1=CC=CC=C1)C(=O)OC)F | C21H17FO4S2
